US08859596B2
(E)-N′-(3-isopropyl-1H-pyrazol-5-yl)-N,N-dimethylformimidamide
A mixture of 3-isopropyl-1H-pyrazol-5-amine (1.25 g, 10 mmol) and 1,1-dimethoxy-N,N-dimethylmethanamine (12 g, 100 mmol) in dioxane (30 mL) was heated at reflux for 10 hours. The mixture was concentrated under reduced pressure and the residue was purified by chromatography (CH2Cl2-MeOH 9:1) to afford 1.75 g of title compound. MS (DCI/NH3) m/z 181 (M+H)+.

reactant | 3-isopropyl-1H-pyrazol-5-amine | 10 mmol, 1.25 g | C(C)(C)C1=NNC(=C1)N | C6H11N3
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 100 mmol, 12 g | COC(N(C)C)OC | C5H13NO2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | (E)-N′-(3-isopropyl-1H-pyrazol-5-yl)-N,N-dimethylformimidamide | 1.75 g | C(C)(C)C1=NNC(=C1)/N=C/N(C)C | C9H16N4
